US06306555B1
45.22 g (0.21 mol) of 4-iodotoluene in 326 g of 75% sulfuric acid are introduced into a 750 ml flask having a reflux condenser, a thermometer, a stirrer and a nitrogen supply. 29.2 g (0.22 mol) of isobutylbenzene are then added, and the heterogeneous mixture is cooled to 1 0° C. 94.7 g (0.41 mol) of ammonium peroxodisulfate are added in portions so that the temperature does not exceed 15° C. The reaction mixture is stirred at room temperature for 5 hours. The reaction mixture is then added over the course of 40 minutes at 5-10° C. to a well stirred suspension of 38.18 g (0.21 mol) of potassium hexafluorophosphate in 600 ml of water and 500 ml of acetic acid ethyl ester. The mixture is maintained at room temperature for 1.5 hours, and the phases are separated. The organic phase is washed with water and 5% sodium hydrogen carbonate, and the solvent is removed in vacuo. 89 g (0.18 mol; 86%) of p-isobutylphenyl-p-tolyl-iodonium hexafluorophosphate are obtained in the form of a brownish resin. The product is purified further by chromatography (dichloromethane:ethanol 95:5 on SiO2) or by recrystallisation from chloroform/hexane.

reactant | 4-iodotoluene | 0.21 mol, 45.22 g | IC1=CC=C(C=C1)C | C7H7I
reactant | isobutylbenzene | 0.22 mol, 29.2 g | C(C(C)C)C1=CC=CC=C1 | C10H14
reactant | ammonium peroxodisulfate | 0.41 mol, 94.7 g | [NH4+].[NH4+].[O-]S(=O)(=O)OOS(=O)(=O)[O-]
reactant | potassium hexafluorophosphate | 0.21 mol, 38.18 g | F[P-](F)(F)(F)(F)F.[K+]
reactant | acetic acid ethyl ester | 500 ml | C(C)OC(C)=O | C4H8O2
solvent | sulfuric acid | 326 g | S(O)(O)(=O)=O | H2O4S
solvent | water | 600 ml | O | H2O
product | p-isobutylphenyl-p-tolyl-iodonium hexafluorophosphate | 0.18 mol, 89 g, 86% | F[P-](F)(F)(F)(F)F.C(C(C)C)C1(CC=C(C=C1)C)[I+]C1=CC=CC=C1 | InChI=1S/C17H22I.F6P/c1-14(2)13-17(11-9-15(3)10-12-17)18-16-7-5-4-6-8-16;1-7(2,3,4,5)6/h4-11,14H,12-13H2,1-3H3;/q+1;-1
